Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers/Rigors

 
Major Surgical or Invasive Procedure:
PTC tube placement by ___ ___
 
History of Present Illness:
Mr. ___ is a ___ with stage IV cholangiocarcinoma, currently 
on last day of cycle 8 gemcitabine/cisplatin, s/p biliary 
stenting and multiple episodes of GNR bacteremia, re-admitted on 
___ with recurrent fevers, found to have acute cholecystitis 
and contained gall bladder rupture s/p PTC who is transferred to 
the ICU in the setting of post-procedural fevers/rigors and 
hypotension.

Mr. ___ has had multiple admissions for cholangitis and 
likely biliary-related GNR bacteremia; the two most recent 
admissions were for E coli bactermia on (___) and again 
___. During this second admission he had biliary stent 
cleaning by ERCP as well as PTC biliary drain placement 
(internal-external biliary drain in the right anterior hepatic 
ducts). He also currently has two metallic common bile duct 
stents, one originating in the right hepatic duct and the other 
in the left hepatic duct. E coli was found to be ertapenem 
resistant during this admission, so he was discharged home with 
a 10 day course of meropenem, which he completed on ___. He 
also takes prophylactic PO vancomycin per ID recommendations for 
h/o severe C. Diff. 

Over the past week since discharge, he has experienced 
persistent fevers; he spiked to 102.4 on ___ and was 
subsequently admitted. CT demonstrated acute cholecystitis with 
a small rupture along the hepatic margin; ___ placed a PTC tube 
today which drained 100cc of frank pus. After the procedure, he 
developed fever and rigors; he was fluid resuscitated on the 
floor with ~2L NS with BPs in the ___ and HRs in the ___.

He is now transferred to the ICU for further management. 

Review of systems:  
(+) Per HPI. Reports 5 soft but solid BMs today.
(-) Denies night sweats, recent weight loss or gain. Denies 
headache, sinus tenderness, rhinorrhea or congestion. Denies 
cough, shortness of breath, or wheezing. Denies chest pain, 
chest pressure, palpitations, or weakness. Denies nausea, 
vomiting, constipation. Denies dysuria, frequency, or urgency. 
Denies arthralgias or myalgias. Denies rashes or skin changes.  
 
Past Medical History:
Stage IV Cholangiocarcinoma, c/b multiple episodes of 
cholangitis
GERD  
Rosacea  
BPH  
History of C. Diff

 
Social History:
___
Family History:
His grandfather had a cancer of the bone. He has no other family 
history of malignancy
 
Physical Exam:
Admission Physical Exam:  
Vitals- T: 97.9 BP: 110/57 P: 83 R: 18 O2: 92% on 3LNC  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rhythm, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-distended. +BS. Moderate tenderness and 
guarding in the RUQ around drain site. No rebound tenderness or 
rigidity. External biliary drain in place, draining bloody and 
serosanguinous fluid in bag.
GU: no foley  
Ext: warm, well perfused, 2+ pulses bilaterally, no clubbing, 
cyanosis or edema 

VS:  98.9  126/80 HR ___ RR 18  95% RA
GEN: AOx3, NAD, pleasant  
HEENT: EOMI, no scleral icterus, no conjunctival injection  
Cards: RRR S1/S2 normal. no murmurs/gallops/rubs.  
Pulm: CTAB, no crackles or wheezes  
Abd: BS+, soft, tenderness with palpation in RUQ at procedure 
site, no rebound/guarding, positive hepatomegaly. 2 external 
drains, biliary drain capped, on right flank with dressing 
c/d/i. small amount of erythema surround entry sites, but not 
extending beyond previous markings
Extremities: wwp, no edema. DPs, PTs 2+.  
Skin: no rashes or bruising  
Neuro: No focal deficits,sensation grossly intact  
 
Pertinent Results:
ADMISSION LABS:

___ 09:20PM BLOOD WBC-8.8# RBC-3.29* Hgb-9.4* Hct-29.3* 
MCV-89 MCH-28.5 MCHC-32.0 RDW-15.7* Plt ___
___ 09:20PM BLOOD Neuts-80.7* Lymphs-11.5* Monos-6.3 
Eos-1.2 Baso-0.4
___ 09:20PM BLOOD ___ PTT-30.2 ___
___ 09:20PM BLOOD Glucose-129* UreaN-8 Creat-0.7 Na-129* 
K-4.6 Cl-95* HCO3-26 AnGap-13
___ 09:20PM BLOOD Albumin-3.4*
___ 07:33AM BLOOD Calcium-8.9 Phos-2.9 Mg-1.8
___ 09:20PM BLOOD ALT-21 AST-38 AlkPhos-233* TotBili-0.5
___ 09:21PM BLOOD Lactate-1.1
___ 09:20PM BLOOD Lipase-25

ON TRANSFER TO MICU
___ 01:02PM BLOOD Type-ART pO2-69* pCO2-27* pH-7.47* 
calTCO2-20* Base XS--1 Intubat-NOT INTUBA Comment-NASAL ___
___ 04:30PM BLOOD ___ pO2-197* pCO2-36 pH-7.44 
calTCO2-25 Base XS-1 Comment-GREEN TOP
___ 04:20PM BLOOD WBC-11.2*# RBC-3.18* Hgb-9.1* Hct-28.0* 
MCV-88 MCH-28.4 MCHC-32.4 RDW-16.2* Plt ___
___ 01:02PM BLOOD Lactate-5.5*
___ 04:30PM BLOOD Lactate-2.0

DISCHARGE LABS:
___ 05:30AM BLOOD WBC-4.8 RBC-3.11* Hgb-8.6* Hct-28.1* 
MCV-90 MCH-27.6 MCHC-30.5* RDW-16.2* Plt ___
___ 05:30AM BLOOD Plt ___
___ 05:30AM BLOOD Glucose-110* UreaN-10 Creat-0.7 Na-135 
K-4.4 Cl-99 HCO3-29 AnGap-11
___ 05:30AM BLOOD ALT-31 AST-33 AlkPhos-225* TotBili-0.4
___ 05:30AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.1

MICRO:
Urine cx: no growth
Blood cultures (___): pnd
Catheter tip culture: no significant growth
Gallbladder culture: sparse growth GNRs, culture; e. coli

___ 11:25 am FLUID,OTHER     Site: GALLBLADDER

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   FLUID CULTURE (Preliminary): 
      ESCHERICHIA COLI.    SPARSE GROWTH. 
         Piperacillin/Tazobactam sensitivity testing confirmed 
by ___
         ___. 
         CEFEPIME ( >16 MCG/ML ) sensitivity testing performed 
by
         Microscan.  MEROPENEM sensitivity testing confirmed by 
Microscan. 
         ___. ___ (___) REQUESTED TIGECYCLINE 
SENSITIVITIES
         ___. 
         SENSITIVE TO TIGECYCLINE ( <=1 MCG/ML ) sensitivity 
testing
         performed by Microscan. 
         SENSITIVE TO DORIPENEM ( 1.0 MCG/ML ) Sensitivity 
testing
         performed by Etest. 
         ISLOATE BEING SENT OUT ___ TO ___ 
LABORATORIES FOR
         COLISTIN SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------     2 I
PIPERACILLIN/TAZO----- =>128 R
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


IMAGING:
CHEST PA AND LAT (___): Dense band-like opacities in the 
lower lungs which have a morphology most suggestive of 
atelectasis.  If pneumonia is a continuing possible clinical 
concern, a short-term followup radiographs may be helpful and 
pneumonia is not entiredly excluded. 

CT ABD/PELVIS (___): 
1.  Acute cholecystitis with small contained rupture along the 
hepatic margin of the gallbladder. 
2.  Atrophic left hepatic lobe with stable left and right 
metallic biliary stents and new internal-external right anterior 
biliary drain.  No definite new liver lesion or lymph node with 
persistent soft tissue around stents at hepatic ducts 
confluence. 
3.  Left upper quadrant small bowel segmental dilation is likely 
ileus.  Clinical follow up recommended. 

CT ABD/PELVIS (___): 
1.  Cholecystostomy tube placed yesterday is positioned within 
the gallbladder lumen with no findings of local complication. 
Small amount of new free fluid would be consistent with small, 
not unexpected bile leak during that procedure but if symptoms 
continue, rescanning to assess whether any of this is developing 
into a collection could be performed. Even this amount of bile 
in the peritoneum can be painful. 
2.  Note malposition of distal portion of the right anterior 
internal/external biliary drain coiled back on itself in the 
distal end of the left mental stent, currently not associated 
with recurrent biliary obstruction. 

 
Brief Hospital Course:
Mr. ___ is a ___ with stage IV cholangiocarcinoma, currently 
on last day of cycle 8 gemcitabine/cisplatin, s/p biliary 
stenting and multiple episodes of GNR bacteremia, who presented 
with recurrent fevers and found to have cholecystitis and 
gallbladder rupture requiring PTC.

# Acute cholangitis w/GB perforation requiring PTC placement c/b 
severe sepsis: Patient was admitted with persistent fever. A CT 
showed acute cholangitis with contained perforation of the 
gallbladder. He was started on IV meropenam. A percutaneous 
cholecystostomy tube was placed. ___, Patient 
became febrile, rigored, had a lactate of 5.5, and was 
transferred to the unit. Fevers/rigors were most likely due to 
transient bacteremic translocation secondary to invasive PTC 
tube procedure given the frankly purulent material expressed 
during drainage or from his cholecystitis. He was treated with 
IV meropenem/vancomycin per ID recommendations. Repeat imaging 
showed no concern for acute perforation or other pathology 
requiring urgent intervention. Cultures obtained during 
cholecystostomy showed e.coli. Antibiotic coverage was narrowed 
to meropenem, which was later changed to Tigecycline as the 
e.coli had only intermediate sensitivity to meropenam. He was 
discharged home with a PICC to complete a 7 day course of 
Tigecycline. Patient was also started on PO vancomycin due to 
his history of e.coli.

# Metastatic cholangiocarcinoma- Last day cycle 8 
gemcitabine/cisplatin. Patient was continued on his home pain 
regimen.

# H/o c.diff: Started on PO vancomycin.

# Hypertension- Continued on atenolol

# BPH- Continued on home terazosin

# Rosacea- Continued on metronidazole cream 

# GERD- Continued on home PPI

TRANSITIONAL ISSUES
# Follow up blood culture results
# Complete 7 day course of Tigecycline.
# Follow up with ___ in 2 weeks by phone
# Will need perc chole drain changed in 3 months (early ___

 
Medications on Admission:
Acetaminophen 325-650 mg PO/NG Q6H:PRN pain, fever 
Docusate Sodium 100 mg PO/NG BID 
Heparin 5000 UNIT SC TID 
Meropenem 1000 mg IV Q8H 
Morphine Sulfate 1 mg IV Q4H:PRN pain 
OLANZapine 2.5 mg PO HS:PRN insomnia 
Ondansetron 8 mg PO/NG Q8H:PRN nausea 
OxycoDONE (Immediate Release)  5 mg PO/NG Q4H:PRN pain 
OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
Polyethylene Glycol 17 g PO/NG DAILY 
Pantoprazole 40 mg PO Q24H 
Senna 8.6 mg PO/NG BID 
Terazosin 10 mg PO HS 
Vancomycin Oral Liquid ___ mg PO/NG Q6H 
Vancomycin 1000 mg IV Q 12H 
 
Discharge Medications:
Acetaminophen 325-650 mg PO/NG Q6H:PRN pain, fever 
Docusate Sodium 100 mg PO/NG BID 
Heparin 5000 UNIT SC TID 
Meropenem 1000 mg IV Q8H 
Morphine Sulfate 1 mg IV Q4H:PRN pain 
OLANZapine 2.5 mg PO HS:PRN insomnia 
Ondansetron 8 mg PO/NG Q8H:PRN nausea 
OxycoDONE (Immediate Release)  5 mg PO/NG Q4H:PRN pain 
OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
Polyethylene Glycol 17 g PO/NG DAILY 
Pantoprazole 40 mg PO Q24H 
Senna 8.6 mg PO/NG BID 
Terazosin 10 mg PO HS 
Vancomycin Oral Liquid ___ mg PO/NG Q6H 
Vancomycin 1000 mg IV Q 12H 
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
acute cholangitis/contained gallbladder perforation
cholangiocarcinoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted to 
the hospital with fever, and were found to have a infected 
gallbladder with a small perforation. A tube was placed in your 
gallbladder and you were treated with antibiotics. You will need 
to continue to take these antibiotics, via a PICC line, after 
you are discharged. 

Please take your medications as prescribed and follow up at the 
appointments listed below.

We wish you the best!

 
Followup Instructions:
___